US09376442B2
4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-N-{(3R)-1-[(2S)-2-hydroxypropanoyl]pyrrolidin-3-yl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride (example D.f26) and commercially available (2S)-1-chloro-1-oxopropan-2-yl acetate the title compound is obtained as colorless solid.

reactant | 4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-6-methyl-N-[(3R)-pyrrolidin-3-yl]-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide hydrochloride | Cl.C1(CC1)COC1=C(C=C(C=C1)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CNCC2
reactant | (2S)-1-chloro-1-oxopropan-2-yl acetate | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | 4-[2-(cyclopropylmethoxy)-5-methoxyphenyl]-N-{(3R)-1-[(2S)-2-hydroxypropanoyl]pyrrolidin-3-yl}-6-methyl-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C1(CC1)COC1=C(C=C(C=C1)OC)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)N[C@H]2CN(CC2)C([C@H](C)O)=O | C26H31N5O5
